* transmission-gate latch transient simulation
* Non-standard structure:
* Q -> feedback TG -> Y -> feedback inverter -> X -> output inverter -> Q
* D -> input inverter -> DBAR -> input TG -> X

.include ../models/chapter7_cmos.inc

.param VDD=2.5
.param LMIN=0.25u
.param WN=1u
.param WP=2.75u

Vdd vdd 0 {VDD}

* clk: high from 0~4ns, low from 4~8ns, high again from 8~12ns
Vclk  clk  0 PULSE({VDD} 0 4n 50p 50p 4n 8n)
Vclkb clkb 0 PULSE(0 {VDD} 4n 50p 50p 4n 8n)

* D changes during transparent and hold intervals
* D rises at 2ns, falls at 5ns, rises again at 10ns
Vin d 0 PULSE(0 {VDD} 2n 50p 50p 3n 8n)

* input inverter: D -> DBAR
Xinv_in d dbar vdd inv wnn={WN} wpp={WP} lch={LMIN}

* input transmission gate: DBAR -> X
* on when clk=1
Xtg_in dbar x clk clkb vdd tg wnn={WN} wpp={WP} lch={LMIN}

* output inverter: X -> Q
Xinv_out x q vdd inv wnn={WN} wpp={WP} lch={LMIN}

* feedback transmission gate: Q -> Y
* on when clk=0
Xtg_fb q y clkb clk vdd tg wnn={WN} wpp={WP} lch={LMIN}

* feedback inverter: Y -> X
Xinv_fb y x vdd inv wnn={WN} wpp={WP} lch={LMIN}

* initial condition, helps convergence
.ic v(x)=0 v(q)={VDD} v(y)=0

.control
set noaskquit
set wr_vecnames
set wr_singlescale

tran 5p 20n

plot v(d) v(clk) v(y) v(x) v(q)
plot v(d) v(clk)+3 v(y)+6 v(x)+9 v(q)+12

wrdata ./latch_tran.dat v(d) v(clk) v(clkb) v(dbar) v(y) v(x) v(q) i(vdd)

.endc

.end