* static_nand_vtc_b1: static CMOS NAND DC
.include ../models/chapter6_cmos.inc
Vdd vdd 0 2.5
Va a 0 0
Vb b 0 2.5
Mp1 out a vdd vdd PMOS W=2.75u L=2.5e-07
Mp2 out b vdd vdd PMOS W=2.75u L=2.5e-07
Mn1 out a n1 0 NMOS W=1u L=2.5e-07
Mn2 n1 b 0 0 NMOS W=1u L=2.5e-07
.control
set noaskquit
set wr_vecnames
set wr_singlescale
dc Va 0 2.5 0.0025
wrdata ../raw/static_nand_vtc_b1.dat v(a) v(out) i(vdd)
quit
.endc
.end
